US04315933
Using the method for the preparation of the side chain acid in Example 1, 9.2 g (40 mmol) of 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid, 16.8 ml (120 mmol) of triethylamine, 16 ml (126 mmol) of chlorotrimethylsilane, 400 ml of dichloromethane, and 5.0 (45 mmol) of cyanoacetyl chloride [Org. Syn. Col. Vol. V, p. 171] gives 12.3 g of 2-[4-(cyanoacetylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid as the monohydrate; mp>280°.

reactant | 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid | 40 mmol, 9.2 g | NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C11H9N3O3
reactant | triethylamine | 120 mmol, 16.8 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 126 mmol, 16 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | cyanoacetyl chloride | C(#N)CC(=O)Cl | C3H2ClNO
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-[4-(cyanoacetylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | 12.3 g | C(#N)CC(=O)NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C14H10N4O4
